US04550104
A mixture of 3.0 g (10 mmol) of 8-chloro-7-fluoro-5-oxo-1,2-dihydro-5H-thiazolo[3,2-a]quinoline-4-carboxylic acid, 1.93 g (15 mmol) of N-ethyl-3-pyrrolidinemethanamine and 50 ml of pyridine is heated at reflux for 18 hours. The solvent is removed in vacuo and the residue triturated with water. The solid which separates is removed by filtration, washed with water and dried in vacuo to give 7-fluoro-8-[3-[(ethylamino)methyl]-1-pyrrolidinyl]-5-oxo-1,2-dihydro-5H-thiazolo[3,2-a]quinoline-4-carboxylic acid.

reactant | 8-chloro-7-fluoro-5-oxo-1,2-dihydro-5H-thiazolo[3,2-a]quinoline-4-carboxylic acid | 10 mmol, 3.0 g | ClC1=C(C=C2C(C(=C3N(C2=C1)CCS3)C(=O)O)=O)F | C12H7ClFNO3S
reactant | N-ethyl-3-pyrrolidinemethanamine | 15 mmol, 1.93 g | C(C)NCC1CNCC1 | C7H16N2
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 7-fluoro-8-[3-[(ethylamino)methyl]-1-pyrrolidinyl]-5-oxo-1,2-dihydro-5H-thiazolo[3,2-a]quinoline-4-carboxylic acid | FC=1C=C2C(C(=C3N(C2=CC1N1CC(CC1)CNCC)CCS3)C(=O)O)=O | C19H22FN3O3S
